US08980911B2
A mixture of (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[2,3-c]pyridin-3-yl)methanone (100 mg, 0.27 mmol) in dimethylformamide (3 mL) was treated with zinc cyanide (25.2 mg, 0.21 mmol), tris(dibenzylideneacetone)dipalladium (0) (6.21 mg, 0.006 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (5.6 mg, 0.01 mmol) followed by heating at 130° C. for 16 hours. The reaction mixture was diluted with ethyl acetate, filtered over celite, and the filtrate was concentrated under vacuum. The crude compound was purified by LC-MS to afford 3,5-dichloro-4-(1H-pyrrolo[2,3-c]pyridin-3-ylcarbonyl)benzonitrile (2 mg, 2%).

reactant | (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[2,3-c]pyridin-3-yl)methanone | 0.27 mmol, 100 mg | BrC1=CC(=C(C(=C1)Cl)C(=O)C1=CNC2=CN=CC=C21)Cl | C14H7BrCl2N2O
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 0.21 mmol, 25.2 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.006 mmol, 6.21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.01 mmol, 5.6 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3,5-dichloro-4-(1H-pyrrolo[2,3-c]pyridin-3-ylcarbonyl)benzonitrile | 2 mg, 2% | ClC=1C=C(C#N)C=C(C1C(=O)C1=CNC2=CN=CC=C21)Cl | C15H7Cl2N3O
